US05026712
5,6-Dihydro-3-methyl-8-[4-((methylsulfonyl)amino)phenyl]-imidazo[1,5-a]pyridine
Combine 100 g (0.36 mol) of N-[(4-chloro-l-oxobutyl)phenyl] methanesulfonamide with 400 g (4.88 mol) of 2-methylimidazole and heat to 175° C. for 22 hr under argon. Crystallization from methylene chloride provides the title compound.

reactant | N-[(4-chloro-l-oxobutyl)phenyl] methanesulfonamide | 0.36 mol, 100 g | ClCCCC(=O)C1=C(C=CC=C1)NS(=O)(=O)C | C11H14ClNO3S
reactant | 2-methylimidazole | 4.88 mol, 400 g | CC=1NC=CN1 | C4H6N2
product | 5,6-Dihydro-3-methyl-8-[4-((methylsulfonyl)amino)phenyl]-imidazo[1,5-a]pyridine | CC1=NC=C2N1CCC=C2C2=CC=C(C=C2)NS(=O)(=O)C | C15H17N3O2S
